US04267175
A mixture of 3-methyl-1-bromo-butane (3.94 g.), N-nitroso-piperazine (3 g.), anhydrous potassium carbonate (3.6 g.) and a small crystal of potassium iodide in dimethyl formamide was heated at 100° for 2 hours. Solvent was removed under reduced pressure and the residue dissolved in ether and water. The ether extract was separated, dried and evaporated to give an oil which was adsorbed on silica gel. Elution with ethyl acetate gave N-(3-methylbutyl)-N'-nitroso piperazine, further purified by dissolving in dilute acid, washing the acid extract with ether, basifying the acid extract and re-extracting with ether. The yield of colourless oil was 3 g (62%).

reactant | 3-methyl-1-bromo-butane | 3.94 g | CC(CCBr)C | C5H11Br
reactant | N-nitroso-piperazine | 3 g | N(=O)N1CCNCC1 | C4H9N3O
reactant | potassium carbonate | 3.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | N-(3-methylbutyl)-N'-nitroso piperazine | CC(CCN1CCN(CC1)N=O)C | C9H19N3O
